US07713957B2
Synthesis of N-(2,2-dimethylpropanoyl)-β-alanine:
558 mg (4.03 mmol) of methyl 3-aminopropionate hydrochloride was dissolved in 20 ml of 1 N aqueous sodium hydroxide solution. 362 mg (3.00 mmol) of pivaloyl chloride was immediately added to the obtained solution, and they were stirred for 4 hours. 15 ml of 2 N aqueous hydrochloric acid solution was added to the reaction mixture. After extracting with ethyl acetate 3 times followed by drying under anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | methyl 3-aminopropionate hydrochloride | 4.03 mmol, 558 mg | Cl.NCCC(=O)OC
reactant | pivaloyl chloride | 3.00 mmol, 362 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 2 N, 15 ml | Cl | ClH
solvent | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
product | N-(2,2-dimethylpropanoyl)-β-alanine | CC(C(=O)NCCC(=O)O)(C)C | C8H15NO3
